US07985753B2
6-Fluoro-1-methyl-1,2,3,4-tetrahydro-isoquinoline
In close analogy to the procedure described above, 6-fluoro-1-methyl-3,4-dihydro-isoquinoline is reacted with sodium triacetoxyborohydride to provide the title compound.

reactant | 6-fluoro-1-methyl-3,4-dihydro-isoquinoline | FC=1C=C2CCN=C(C2=CC1)C | C10H10FN
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 6-Fluoro-1-methyl-1,2,3,4-tetrahydro-isoquinoline | FC=1C=C2CCNC(C2=CC1)C | C10H12FN
